US04997977
Following the procedure of Example I, 2-(ethylamino)ethanol is reacted with 4-fluorobenzaldehyde to provide 4-[N-ethyl-N-(2-hydroxyethyl)amino]benzaldehyde starting material.

reactant | 2-(ethylamino)ethanol | C(C)NCCO | C4H11NO
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
product | 4-[N-ethyl-N-(2-hydroxyethyl)amino]benzaldehyde | C(C)N(CCO)C1=CC=C(C=O)C=C1 | C11H15NO2
